US06166219
Sodium borohydride (0.48 g) was added to a solution of 4.96 g of 4-phenoxybenzaldehyde in 20 ml of ethanol, and the mixture was stirred at room temperature for 1.5 hours. After the completion of the concentration, the residue was extracted with tert-butylmethyl ether and with water. The organic layer was concentrated to give 4.84 g of 4-phenoxybenzyl alcohol.

reactant | Sodium borohydride | 0.48 g | [BH4-].[Na+]
reactant | 4-phenoxybenzaldehyde | 4.96 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-phenoxybenzyl alcohol | 4.84 g | O(C1=CC=CC=C1)C1=CC=C(CO)C=C1 | C13H12O2
